US05387685
1,2,3,4-Tetrahydro-6,7-dimethoxy-2-[7-phenyl-7-(phenylthio)heptyl]isoquinoline
The free base from 4.60 g of 6,7-dimethoxy-1,2,3,4-tetrahydroisoquinoline hydrochloride, 3.63 g of [(7-bromo-1-phenylheptyl)thio]benzene, 50 ml of acetonitrile and 2.61 ml of ethyl diisopropylamine is heated at reflux temperature for 29 hours. The solvent is evaporated over night and the residue is partitioned between chloroform and aqueous ammonium hydroxide. The organic layer is dried and concentrated in vacuo to give 5.81 g of crude product. The residue is purified by chromatography (silica gel: chloroform/methyl alcohol) to give 1.73 g of the desired product.

reactant | 6,7-dimethoxy-1,2,3,4-tetrahydroisoquinoline hydrochloride | 4.60 g | Cl.COC=1C=C2CCNCC2=CC1OC
reactant | [(7-bromo-1-phenylheptyl)thio]benzene | 3.63 g | BrCCCCCCC(C1=CC=CC=C1)SC1=CC=CC=C1 | C19H23BrS
reactant | ethyl diisopropylamine | 2.61 ml | C(C)N(C(C)C)C(C)C | C8H19N
solvent | acetonitrile | 50 ml | C(C)#N | C2H3N
product | 1,2,3,4-Tetrahydro-6,7-dimethoxy-2-[7-phenyl-7-(phenylthio)heptyl]isoquinoline | 1.73 g | COC=1C=C2CCN(CC2=CC1OC)CCCCCCC(SC1=CC=CC=C1)C1=CC=CC=C1 | C30H37NO2S
